US04777185
A. 1-(4-chlorophenyl)-1-(1-hydroxyprop-2-enyl)cyclopropane (compound n)
To a stirred solution of 1-(4-chlorophenyl)-1-cyclopropanemethanol (1.8 g) in dry tetrahydrofuran (60 ml) at -78° C. is added IM vinylmagnesium bromide (12 ml) in tetrahydrofuran over 10 mins. The mixture is then allowed to warm to -20° C. and saturated aqueous ammonium chloride added (30 ml). The mixture is concentrated under reduced pressure, and extracted with ether (x3). The combined extracts are dried and the solvent evaporated under reduced pressure to the required compound, 3 g, nD 1.5523.

reactant | 1-(4-chlorophenyl)-1-cyclopropanemethanol | 1.8 g | ClC1=CC=C(C=C1)C1(CC1)CO | C10H11ClO
reactant | vinylmagnesium bromide | 12 ml | C(=C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 1-(4-chlorophenyl)-1-(1-hydroxyprop-2-enyl)cyclopropane | ClC1=CC=C(C=C1)C1(CC1)C(C=C)O | C12H13ClO
